US03931239
To a solution of 4,5-dimethyl-6-oxo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid (8.0 g.) in ethanol (50 ml.) is added borontrifluoride etherate (13 ml.). The reaction mixture is refluxed for 0.5 hour, treated with water and cooled to afford ethyl [4,5-dimethyl-6-oxo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]-furan-2-carboxylate] after filtration and drying.

reactant | 4,5-dimethyl-6-oxo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 8.0 g | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)CCC)=O)C | C17H18O4
reactant | borontrifluoride etherate | 13 ml | B(F)(F)F.CCOCC
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl [4,5-dimethyl-6-oxo-7-propyl-7,8-dihydro-6H-indeno[5,4-b]-furan-2-carboxylate] | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)OCC)CCC)=O)C | C19H22O4
